US07531663B2
30 cm3 of sulphinyl chloride and one drop of dimethylformamide are added, at a temperature in the region of 22° C. and under an argon atmosphere, to 2.4 g (7.52 mmol) of 3-carboxy-6-methoxy-1-(quinol-4-yl)-1H-indole. After stirring at reflux for 16 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give 2.5 g of 3-chlorocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole in the form of a yellow solid which is used directly in the following step.

reactant | 3-carboxy-6-methoxy-1-(quinol-4-yl)-1H-indole | 7.52 mmol, 2.4 g | C(=O)(O)C1=CN(C2=CC(=CC=C12)OC)C1=CC=NC2=CC=CC=C12 | C19H14N2O3
reactant | sulphinyl chloride | 30 cm3 | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 3-chlorocarbonyl-6-methoxy-1-(quinol-4-yl)-1H-indole | 2.5 g | ClC(=O)C1=CN(C2=CC(=CC=C12)OC)C1=CC=NC2=CC=CC=C12 | C19H13ClN2O2
